US06288061B1
Ethyl 2-hydroxyimino-3-oxo-3-(4-trifluoromethylphenyl)-propionate (24.6 g) and 4-nitrobenzylamine (14.0 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 2-(4-nitrophenyl)-5-(4-trifluoromethylphenyl)-imidazole-4-carboxylate (10.6 g). 9.0 g therefrom was dissolved in ethyl alcohol. 1 M Sodium hydroxide solution was added and the mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 2-(4-nitrophenyl)-5-(4-trifluoromethylphenyl)imidazole-4-carboxylic acid (8.2 g), melting point 172-174° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-oxo-3-(4-trifluoromethylphenyl)-propionate | 24.6 g | ON=C(C(=O)OCC)C(C1=CC=C(C=C1)C(F)(F)F)=O | C12H10F3NO4
reactant | 4-nitrobenzylamine | 14.0 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 2-(4-nitrophenyl)-5-(4-trifluoromethylphenyl)-imidazole-4-carboxylate | 10.6 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1NC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C19H14F3N3O4
